US08614239B2
Preparation of Intermediate 5-Amino-6,7-difluoro-1-(2-fluoro-4-iodo-phenyl)-4-hydroxy-1,3-dihydro-benzoimidazol-2-one (I-13a)
1.0M Solution of borontribromide in DCM (6.4 mL, 6.4 mmol) was added to a solution of 5-amino-6,7-difluoro-1-(2-fluoro-4-iodo-phenyl)-4-methoxy-1,3-dihydro-benzoimidazol-2-one (I-11a: 1.4 g, 3.2 mmol) in DCM (50 mL) at 0° C. and the resulting mixture was stirred at room temperature overnight. The reaction was monitored by TLC (80% ethyl acetate in hexane). The reaction mixture was quenched with water and stirred for 1 hour. The aqueous layer was extracted with ethyl acetate (100 mL×2). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and concentrated to afford 1.15 g of the product (85.1% yield).

reactant | 5-amino-6,7-difluoro-1-(2-fluoro-4-iodo-phenyl)-4-methoxy-1,3-dihydro-benzoimidazol-2-one | 3.2 mmol, 1.4 g | NC1=C(C2=C(N(C(N2)=O)C2=C(C=C(C=C2)I)F)C(=C1F)F)OC | C14H9F3IN3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | DCM | 6.4 mmol, 6.4 mL | C(Cl)Cl | CH2Cl2
product | 5-Amino-6,7-difluoro-1-(2-fluoro-4-iodo-phenyl)-4-hydroxy-1,3-dihydro-benzoimidazol-2-one | 1.15 g, 85.1% yield | NC1=C(C2=C(N(C(N2)=O)C2=C(C=C(C=C2)I)F)C(=C1F)F)O | C13H7F3IN3O2
